US04163846
2-Methyl-3-amino-6-t-butyl-2,5-dihydropyrazolo[3,4-d]pyrimidin-4-one hydrochloride (I)
2-Methyl-3-amino-6-t-butyl-2,5-dihydropyrazolo[3,4-d]pyrimidin-4-one (1.1 g), prepared as in Example 1, was dissolved in 15 ml of boiling 5 N hydrochloric acid. The solution was cooled to 0° C. to precipitate 0.9 g of the title hydrochloride, m.p. 286°-288° C. decomp.

reactant | 2-Methyl-3-amino-6-t-butyl-2,5-dihydropyrazolo[3,4-d]pyrimidin-4-one | 1.1 g | CN1N=C2N=C(NC(C2=C1N)=O)C(C)(C)C | C10H15N5O
reactant | hydrochloric acid | 5 N | Cl | ClH
product | 2-Methyl-3-amino-6-t-butyl-2,5-dihydropyrazolo[3,4-d]pyrimidin-4-one hydrochloride | Cl.CN1N=C2N=C(NC(C2=C1N)=O)C(C)(C)C | InChI=1S/C10H15N5O.ClH/c1-10(2,3)9-12-7-5(8(16)13-9)6(11)15(4)14-7;/h11H2,1-4H3,(H,12,13,14,16);1H
